US09102625B2
To a solution of ethyl 4,5,6-trichloronicotinate (200 mg, 0.78 mmol) in AcCN (1.5 mL) was added 3-fluorobenzylamine (0.108 mL, 0.94 mmol) and DIPEA (0.167 mL, 0.94 mmol). The mixture was stirred at room temperature for 5 h them at 50° C. until the reaction is over. The solution was cooled and concentrated, the resulting residue was diluted with water, the solid was then collected by filtration to give ethyl 5,6-dichloro-4-(3-fluorobenzylamino)nicotinate (260 mg).

reactant | ethyl 4,5,6-trichloronicotinate | 0.78 mmol, 200 mg | ClC1=C(C(=NC=C1C(=O)OCC)Cl)Cl | C8H6Cl3NO2
reactant | 3-fluorobenzylamine | 0.94 mmol, 0.108 mL | FC=1C=C(CN)C=CC1 | C7H8FN
reactant | DIPEA | 0.94 mmol, 0.167 mL | CCN(C(C)C)C(C)C | C8H19N
solvent | AcCN | 1.5 mL | C(=O)(C)C#N | C3H3NO
product | ethyl 5,6-dichloro-4-(3-fluorobenzylamino)nicotinate | 260 mg | ClC=1C(=NC=C(C(=O)OCC)C1NCC1=CC(=CC=C1)F)Cl | C15H13Cl2FN2O2
